US05892084
A 100 ml flask was equipped with a magnetic stirrer, reflux condenser, pot thermometer, and a sampling port. The flask was loaded with 30 g (0.105 mole ) of bis(trimethylsiloxy)phenylsilane and 6 g (0.105 ) mole of allylamine and heated to reflux (79° C.). 180 μl of 3% Pt complexed with tetravinyltetramethylcyclotetrasiloxane were added. The mixture was heated to 125° C. and held for one hour. Thirty one grams (86%) of 3-aminopropyl-bis(trimethylsiloxy)phenylsilane were produced. None of the isomeric 2-aminopropyl-bis(trimethylsiloxy)phenylsilane was formed.

reactant | bis(trimethylsiloxy)phenylsilane | 0.105 mole, 30 g | C[Si](O[SiH](C1=CC=CC=C1)O[Si](C)(C)C)(C)C | C12H24O2Si3
reactant | allylamine | C(C=C)N | C3H7N
reactant | tetravinyltetramethylcyclotetrasiloxane | C(=C)[Si]1(O[Si](O[Si](O[Si](O1)(C)C=C)(C)C=C)(C)C=C)C | C12H24O4Si4
product | 3-aminopropyl-bis(trimethylsiloxy)phenylsilane | Thirty one grams, 86% | NCCC[Si](C1=CC=CC=C1)(O[Si](C)(C)C)O[Si](C)(C)C | C15H31NO2Si3
